US09428502B2
Compound 300.2. 4-Methoxycyclohexanecarbaldehyde
Into a 100-mL 3-neck round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of ethyl 4-methoxycyclohexane-1-carboxylate (1.3 g, 6.98 mmol) in dichloromethane (30 mL). This was followed by the addition of DIBAL-H (1 M in hexanes) (9 mL, 9 mmol) dropwise at −78° C. The reaction mixture was stirred for 3 h at −78° C., then quenched with 10 mL of NH4Cl (sat.). The aqueous phase was extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with 3×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. This resulted in 1 g (crude) of the title compound as a colorless oil.

reactant | ethyl 4-methoxycyclohexane-1-carboxylate | 6.98 mmol, 1.3 g | COC1CCC(CC1)C(=O)OCC | C10H18O3
reactant | DIBAL-H | 9 mmol, 1 M, 9 mL | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-Methoxycyclohexanecarbaldehyde | COC1CCC(CC1)C=O | C8H14O2
